US04435403
156 mg of 6-(3-chloro-1-propinyl)-beta-carboline-3-carboxylic-acid-ethylester is stirred together with 85 mg of piperidine and 76 mg of 1.5-diazabicyclo-[5.4.0]undec-5-ene in 10 ml of absolute ethanol under nitrogen and exclusion of water for 11/2 h at 60° C. After evaporation, the residue is chromatographed on 25 g of silica gel with methylene-chloride/methanol (10/2) as the eluant. 51 mg of 6-[3-(1-piperidinyl)-1-propinyl]-beta-carboline-3-carboxylic-acid-ethylester is obtained.

reactant | 6-(3-chloro-1-propinyl)-beta-carboline-3-carboxylic-acid-ethylester | 156 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)C#CCCl | C17H13ClN2O2
reactant | piperidine | 85 mg | N1CCCCC1 | C5H11N
reactant | 1.5-diazabicyclo-[5.4.0]undec-5-ene | 76 mg | N12CCCN=CC2CCCC1 | C9H16N2
reactant | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-[3-(1-piperidinyl)-1-propinyl]-beta-carboline-3-carboxylic-acid-ethylester | 51 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)C#CCN1CCCCC1 | C22H23N3O2
